US04983211
1-(4-(5-(Trifluoromethyl)-3-fluoro-2-pyridyloxy)phenyl)but-1-en-3-one
To a slurry of 28.5 g (0.10 mol) of 4-(5-(trifluoromethyl)-3-fluoro-2-pyridyloxy)benzaldehyde in 250 mL of acetone and 250 mL of water was added 7.5 mL of 1N sodium hydroxide. The slurry was stirred at ambient temperature for 19 hours and then diluted with 300 mL of methylene chloride and 200 mL of water and made acidic to a pH of 2 with concentrated HCl. The organic layer was separated in a separatory funnel and washed with 500 mL of water and dried over sodium sulfate. The solvent was removed in vacuo leaving 32.5 g (100 percent of theoretical) of the above named compound, as the crude product. The above named product (melting at 71°-72.5° C.) was recovered in a yield of 27.9 g (85.8 percent of theoretical) after recrystallization of the crude product from hexane; Rf -0.19 (silica gel, 15:85 EtOAc:hexane), 1H NMR (CDCl3): δ 2.35 (s, 3H, --CH3), 6.65 (d, 1H, J=15 Hz, vinyl), 7.15-8.3 (m, 6H, ArH and vinyl).

reactant | 4-(5-(trifluoromethyl)-3-fluoro-2-pyridyloxy)benzaldehyde | 0.10 mol, 28.5 g | FC(C=1C=C(C(=NC1)OC1=CC=C(C=O)C=C1)F)(F)F | C13H7F4NO2
reactant | sodium hydroxide | 1N, 7.5 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | acetone | 250 mL | CC(=O)C | C3H6O
solvent | water | 250 mL | O | H2O
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
solvent | water | 200 mL | O | H2O
product | 1-(4-(5-(Trifluoromethyl)-3-fluoro-2-pyridyloxy)phenyl)but-1-en-3-one | FC(C=1C=C(C(=NC1)OC1=CC=C(C=C1)C=CC(C)=O)F)(F)F | C16H11F4NO2
